US05194617
5.99 ml of a pentane solution of 9.34 mmols of t-butyl lithium was added to 1.11 g (4.67 mmols) of trans-1-iodo-1-octene, 15 ml ether solution in an atmosphere of argon at -78° C. and stirred at the same temperature for 2 hours. 400 mg (2.10 mmols) of copper iodide was added to the reaction solution, after which it was heated up to -35° C. and stirred at the same temperature for 45 minutes. 941 mg (5.25 mmols) of hexamethylphosphorus triamide was added to the solution and stirred at -35° C. for 10 minutes, to which 10 ml of a tetrahydrofuran solution of 628 mg (1.75 mmols) of 2-iodomethyl-3-methyl-4 acetoxy-6-fluoroquinoline was added, followed by stirring at the same temperature for 30 minutes. The reaction solution was added to a solution of 2 ml of 1N hydrochloric acid and 100 ml of water, followed by filtration through Celite. The resultant filtrate was extracted with chloroform, washed with water and dried with anhydrous sodium sulfate. The solvent was distilled off under the reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane : ethyl acetate=15:1) to obtain 120 mg (yield 20 %) of 2-(trans-2-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline.

reactant | t-butyl lithium | 9.34 mmols | C(C)(C)(C)[Li]
reactant | trans-1-iodo-1-octene | 4.67 mmols, 1.11 g | I\C=C\CCCCCC | C8H15I
reactant | hexamethylphosphorus triamide | 5.25 mmols, 941 mg | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | 2-iodomethyl-3-methyl-4 acetoxy-6-fluoroquinoline | 1.75 mmols, 628 mg | ICC1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C13H11FINO2
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
catalyst | copper iodide | 2.10 mmols, 400 mg | [Cu](I)I
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | pentane | 5.99 ml | CCCCC | C5H12
product | 2-(trans-2-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline | 120 mg, yield 20 % | C(\C=C\CCCCCC)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C21H26FNO2
